US07144899B2
To a stirred solution of 3-chloro-4-(4-chloro-2-methylphenyl)-1,2,5-thiadiazole (0.503 g, 2.05 mmol) in THF (5.0 mL) was added 2 M lithium borohydride in THF (2.05 mL, 4.10 mmol). The reaction was stirred at ambient temperature for 15 min then was quenched with water and extracted into EtOAc. The organic phase was dried (Na2SO4) and reduced in vacuo. The residue was purified by flash chromatography (eluting with CH2Cl2/hexanes gradient, 1–15% CH2Cl2). 3-(4-Chloro-2-methylphenyl)-1,2,5-thiadiazole was isolated as a solid. 1H NMR (CDCl3, 400 MHz) δ 2.49 (s, 3H), 7.30 (d, J=8.2 Hz, 2H), 7.34 (s, 1H), 7.53 (d, J=8.2 Hz, 1H), 8.71 (s, 1H); MS m/z=211.4.

reactant | 3-chloro-4-(4-chloro-2-methylphenyl)-1,2,5-thiadiazole | 2.05 mmol, 0.503 g | ClC1=NSN=C1C1=C(C=C(C=C1)Cl)C | C9H6Cl2N2S
reactant | lithium borohydride | 2 M | [BH4-].[Li+]
solvent | THF | 5.0 mL | C1CCOC1 | C4H8O
solvent | THF | 4.10 mmol, 2.05 mL | C1CCOC1 | C4H8O
product | 3-(4-Chloro-2-methylphenyl)-1,2,5-thiadiazole | ClC1=CC(=C(C=C1)C1=NSN=C1)C | C9H7ClN2S
